US07491710B2
A solution of 10.5 mg of 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-(methylphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester in a mixture of 500 μl of dichloromethane and 500 μl of trifluoroacetic acid is agitated at ambient temperature for 4 hours. The reaction medium is evaporated under a stream of nitrogen and then redissolved in 1.4 ml of DMSO. The solution obtained is stirred at 60° C. for 3 days and then purified by LC/MS to obtain 5.1 mg of methylphenylphosphinic acid 3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-yl ester.

reactant | 3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-5-(methylphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 10.5 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)C)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C38H45N4O8P
solvent | dichloromethane | 500 μl | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 500 μl | FC(C(=O)O)(F)F | C2HF3O2
product | methylphenylphosphinic acid 3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-yl ester | 5.1 mg | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C | C28H29N4O4P
